US06432993B1
(16-2) 5-{4-(6-[4-(1-Adamantyl)phenoxy]-1-methyl-1H-benzimidazole-2-ylmethoxy)benzyl}thiazolidine-2,4-dione hydrochloride
A mixture of t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-[4-(1-adamantyl)phenoxy]phenyl}-N-methylcarbamate (1.82 g) and 4N hydrogen chloride/dioxane (20 ml) was stirred at ambient temperature for 29 hours. The solvent of the reaction mixture was evaporated to dryness and to the residue was added ether and the insoluble product was filtered and washed with ether to give the title compound (1.35 g).

reactant | t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-[4-(1-adamantyl)phenoxy]phenyl}-N-methylcarbamate | 1.82 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=CC=C(C=C2)C23CC4CC(CC(C2)C4)C3)N(C(OC(C)(C)C)=O)C)C=C1 | C40H45N3O7S
reactant | hydrogen chloride dioxane | 4N, 20 ml | Cl.O1CCOCC1
product | 5-{4-(6-[4-(1-Adamantyl)phenoxy]-1-methyl-1H-benzimidazole-2-ylmethoxy)benzyl}thiazolidine-2,4-dione hydrochloride | 1.35 g | Cl.C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OC=3C=CC1=C(N(C(=N1)COC1=CC=C(CC4C(NC(S4)=O)=O)C=C1)C)C3)C=C2 | InChI=1S/C35H35N3O4S.ClH/c1-38-30-16-28(42-27-8-4-25(5-9-27)35-17-22-12-23(18-35)14-24(13-22)19-35)10-11-29(30)36-32(38)20-41-26-6-2-21(3-7-26)15-31-33(39)37-34(40)43-31;/h2-11,16,22-24,31H,12-15,17-20H2,1H3,(H,37,39,40);1H
